US04888335
(b) 1-[2-Chloro-3-(2,2-dimethylpropoxy)propyl]pyrrolidine
Dry hydrogen chloride gas was bubbled into an ice-cooled solution of 107.7 g (0.5 mole) of α-[(2,2-dimethylpropoxy)methyl]-1-pyrrolidineethanol (the product of Example 3a) in 110 ml of dry toluene until 20.05 g (0.55 mole) was taken up. This solution was added to a stirred ice-cooled suspension of 109.4 g (0.525 mole) of phosphorous pentachloride in 60ml of dry toluene (argon atmosphere) at a rate to keep the reaction temperature between 10°-15° C. After the addition was complete, the ice bath was removed and the reaction mixture was stirred for 1.5 hr. The reaction mixture was added to a stirred ice-cooled solution of 385 ml (4.5 mole) of 45% potassium hydroxide and 700 ml of ice at a rate to keep the reaction temperature between 25°-35° C. The reaction mixture was stirred for 0.5 hr then extracted with toluene. An immiscible oil formed between the layers. The oil was partitioned between dichloromethane and water. The dichloromethane layer and the toluene layer above were combined, dried and concentrated to dryness to give 84.3 g of oil. The oil was distilled (65°-86° C. at 0.35 mm) to give 76.63 g of oily product.

reactant | α-[(2,2-dimethylpropoxy)methyl]-1-pyrrolidineethanol | 0.5 mole, 107.7 g | CC(COCC(CN1CCCC1)O)(C)C | C12H25NO2
reactant | phosphorous pentachloride | 0.525 mole, 109.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | potassium hydroxide | 4.5 mole, 385 ml | [OH-].[K+]
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-Chloro-3-(2,2-dimethylpropoxy)propyl]pyrrolidine | 84.3 g | ClC(CN1CCCC1)COCC(C)(C)C | C12H24ClNO
